US07745641B2
In a similar manner to Step 1 of Example 233, 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0324 g, 0.0702 mmol) was dissolved in acetonitrile (0.650 mL), and the solution was treated with triethylamine (0.0590 mL, 0.421 mmol) and 3,4-dihydro-4-methyl-1,4-benzoxazine-7-sulfonyl chloride (0.0520 g, 0.211 mmol) to obtain 4-(3,4-dihydro-4-methyl-1,4-benzoxazin-7-ylsulfonyloxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0274 g, yield 58%).

reactant | 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.0702 mmol, 0.0324 g | OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C27H31N3O4
reactant | triethylamine | 0.421 mmol, 0.0590 mL | C(C)N(CC)CC | C6H15N
reactant | 3,4-dihydro-4-methyl-1,4-benzoxazine-7-sulfonyl chloride | 0.211 mmol, 0.0520 g | CN1CCOC2=C1C=CC(=C2)S(=O)(=O)Cl | C9H10ClNO3S
solvent | acetonitrile | 0.650 mL | C(C)#N | C2H3N
product | 4-(3,4-dihydro-4-methyl-1,4-benzoxazin-7-ylsulfonyloxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.0274 g, yield 58% | CN1CCOC2=C1C=CC(=C2)S(=O)(=O)OC2=C1CNC(C1=C(C=C2)C=2N(C1=CC=C(C=C1C2)CN2CCCCC2)C(=O)OC(C)(C)C)=O | C36H40N4O7S
